US09163008B2
To a solution of the tert-butyl 2,6-dichloropyrimidine-4-carboxylate (0.626 g, 2.51 mmol) in acetonitrile (10 mL) was added (S)-2-aminopropanamide hydrochloride (0.319 g, 2.56 mmol) and iPr2NEt (0.96 mL, 5.5 mmol). The mixture was heated at 50° C. for 6 h then concentrated in vacuo. The residue was chromatographed over silica gel using 50-100% EtOAc in hexanes. The product fractions were evaporated in vacuo to give (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxylate as an off-white foam (0.628 g, 2.09 mmol, 83% yield). LC/MS: m/z=301.2 [M+H]+.

reactant | tert-butyl 2,6-dichloropyrimidine-4-carboxylate | 2.51 mmol, 0.626 g | ClC1=NC(=CC(=N1)C(=O)OC(C)(C)C)Cl | C9H10Cl2N2O2
reactant | (S)-2-aminopropanamide hydrochloride | 2.56 mmol, 0.319 g | Cl.N[C@H](C(=O)N)C
reactant | iPr2NEt | 5.5 mmol, 0.96 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxylate | 2.09 mmol, 0.628 g, 83% yield | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)OC(C)(C)C)=O | C12H17ClN4O3
